US05973179
Partial Reduction of 2-(3,7,11-Trimethyldodeca-1,2,4,6,10-pentaenyl)-1,3,2-dioxaphospholan-2-one
The reaction was conducted in the manner described in the procedure of Example V using the following reagents: 196 mg (0.636 mmole) of the above-named allenic phosphonate (produced in accordance with Example VI), 4.0 mL of absolute ethyl alcohol, and 47 mg (1.24 mmoles) of sodium borohydride. Isolation of the product as described in the procedure of Example V afforded 207 mg of a phosphonate that was shown by IR and proton NMR analysis (300 MHz) to have a structure different from the anticipated 2-[3,7,11-trimethyldodeca-2,4,6,10-tetraenyl]-1,3,2-dioxaphospholan-2-one. The product was identified as 3,7,11-trimethyl-2,4,6,10-dodecatetraenyl-phosphonic acid, ethyl beta-hydroxyethyl diester--an allylic phosphonate that can still be used in the synthesis of lycopene. The formation of this product can be explained by the facile ethanolysis of the strained heterocyclic ring (i.e., a 1,3,2-dioxaphospholan-2-one) present in the starting material. The proton NMR spectrum of this product exhibited a multiplet at δ 4.124 (4H's, 2×POCH2), a multiplet at δ 3.777 (CH2 bonded to an OH), a doublet of doublets (J=23.1, 8.4 Hz) at δ 2.78 (CH2P), and a triplet (J=6.9 Hz) at δ 1.31 (CH3 in the phosphonate moiety).

reactant | 2-[3,7,11-trimethyldodeca-2,4,6,10-tetraenyl]-1,3,2-dioxaphospholan-2-one | CC(=CCP1(OCCO1)=O)C=CC=C(CCC=C(C)C)C | C17H27O3P
reactant | 3,7,11-trimethyl-2,4,6,10-dodecatetraenyl-phosphonic acid | CC(=CCP(O)(O)=O)C=CC=C(CCC=C(C)C)C | C15H25O3P
reactant | lycopene | CC(=CCC/C(=C/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C=C(/CCC=C(C)C)\C)\C)\C)/C)/C)/C)C | C40H56
reactant | 1,3,2-dioxaphospholan-2-one | O1P(OCC1)=O | C2H5O3P
solvent | phosphonate | P([O-])([O-])=O
product | 2-(3,7,11-Trimethyldodeca-1,2,4,6,10-pentaenyl)-1,3,2-dioxaphospholan-2-one | CC(=C=CP1(OCCO1)=O)C=CC=C(CCC=C(C)C)C | C17H25O3P
